US07968552B2
Trifluoromethanesulfonic anhydride was dropwise added, under ice-cooling, to a mixture of 4-hydroxy-3,5-dimethylbenzonitrile, pyridine and dichloromethane, followed by stirring at room temperature for 2 hours to obtain 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate. In an atmosphere of nitrogen, a mixture of 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate, (3-formylphenyl)boronic acid, palladium acetate, dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, tripotassium phosphate, toluene and water was stirred at room temperature for 6 hours to obtain 3′-formyl-2,6-dimethylbiphenyl-4-carbonitrile.

reactant | Trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-hydroxy-3,5-dimethylbenzonitrile | OC1=C(C=C(C#N)C=C1C)C | C9H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-cyano-2,6-dimethylphenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1C)C#N)C)(F)F | C10H8F3NO3S
